US08048879B2
In a manner similar to general method 1, 280 mg (1.0 mmol) of 6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-3,5-dicarboxylic acid 5-tert-butyl ester were reacted with 90 μL of cyclopropylmethylamine to yield 260 mg (78% of theoretical) of 3-(cyclopropylmethyl-carbamoyl)-6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester, which were obtained in the form of a yellow oil.

reactant | 6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-3,5-dicarboxylic acid 5-tert-butyl ester | 1.0 mmol, 280 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)ON=C2C(=O)O | C12H16N2O5
reactant | cyclopropylmethylamine | 90 μL | C1(CC1)CN | C4H9N
product | 3-(cyclopropylmethyl-carbamoyl)-6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 260 mg, 78% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)ON=C2C(NCC2CC2)=O | C16H23N3O4
